US06203670B1
Preparation of Phenyl Trifluoromethyl Sulphide
The molar ratio of the potassium trifluoroacetate to the phenyl disulphide is 2.0.

reactant | potassium trifluoroacetate | FC(C(=O)[O-])(F)F.[K+]
reactant | phenyl disulphide | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
product | Phenyl Trifluoromethyl Sulphide | FC(F)(F)SC1=CC=CC=C1 | C7H5F3S
